US08053453B2
1) Synthesis of 3-methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
From 1-(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone and 3-methoxycarbonylbenzhydrazide, 27.4 mg of the desired product was obtained in the same manner as in Synthetic Example 4 as a pale yellow solid (yield 35%).

reactant | 1-(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone | CC=1C=C(C=CC1C)N1N=C(C(=C1O)C(C)=O)C | C14H16N2O2
reactant | 3-methoxycarbonylbenzhydrazide | COC(=O)C=1C=C(C(=O)NN)C=CC1 | C9H10N2O3
product | 3-methoxycarbonylbenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 27.4 mg | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=CC(=CC=C1)C(=O)OC)=O)C | C23H24N4O4
